US09238640B2
To a stirred solution of 2-amino-5-methoxy-benzamide (2.62 g, 15.80 mmol) and 4-(2-hydroxy-ethoxy)-3,5-dimethyl-benzaldehyde (3.23 g, 16.60 mmol) in N,N-dimethyl acetamide (20 mL), were added sodium hydrogen sulfite (58.5 wt %, 3.44 g, 19.00 mmol) and p-toluenesulfonic acid monohydrate (0.60 g, 3.20 mmol) and the reaction mixture was stirred at 115° C. for 16 hours. Solvent was evaporated in vacuo, water (50 mL) was added, and the separated solid was filtered. The solid was triturated with ether to give 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-6-methoxy-3H-quinazolin-4-one as a white solid. Yield: 3.56 g (66%).

reactant | 2-amino-5-methoxy-benzamide | 15.80 mmol, 2.62 g | NC1=C(C(=O)N)C=C(C=C1)OC | C8H10N2O2
reactant | 4-(2-hydroxy-ethoxy)-3,5-dimethyl-benzaldehyde | 16.60 mmol, 3.23 g | OCCOC1=C(C=C(C=O)C=C1C)C | C11H14O3
reactant | sodium hydrogen sulfite | 19.00 mmol, 3.44 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 3.20 mmol, 0.60 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethyl acetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-6-methoxy-3H-quinazolin-4-one | OCCOC1=C(C=C(C=C1C)C1=NC2=CC=C(C=C2C(N1)=O)OC)C | C19H20N2O4
